US08487108B2
To a suspension of NaH (3.5 g, 88.4 mmol) in THF (100 mL) at 0-5° C. was added dropwise a solution of (R)-tert-butyl 3-((2,3-difluorophenyl)(hydroxy)methyl)piperidine-1-carboxylate (9.6 g, 29.5 mmol) in THF (50 mL), the reaction mixture was stirred for 1 h at rt. A solution of ethyl bromoacetate (14.7 g, 88.4 mmol) in THF (50 mL) was added dropwise to the above mixture, and then refluxed for 3-5 h. The reaction mixture was poured into saturated aqueous NH4Cl, then extracted with ethyl acetate, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified on silica gel chromatography to afford (3R)-tert-butyl 3-((2,3-difluorophenyl)(2-ethoxy-2-oxoethoxy)methyl)piperidine-1-carboxylate (9.5 g, 79%). 1H NMR (CDCl3, 400 MHz) δ 7.22 (m, 1H), 7.08 (m, 2H), 4.62 (d, 2H), 4.33 (d, 2H), 4.18 (q, 3H), 3.95 (m, 4H), 3.82 (d, 2H), 2.77 (m, 4H), 1.88 (m, 3H), 1.44 (s, 9H), 1.26 (t, 3H).

reactant | NaH | 88.4 mmol, 3.5 g | [H-].[Na+]
reactant | (R)-tert-butyl 3-((2,3-difluorophenyl)(hydroxy)methyl)piperidine-1-carboxylate | 29.5 mmol, 9.6 g | FC1=C(C=CC=C1F)C([C@H]1CN(CCC1)C(=O)OC(C)(C)C)O | C17H23F2NO3
reactant | ethyl bromoacetate | 88.4 mmol, 14.7 g | BrCC(=O)OCC | C4H7BrO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (3R)-tert-butyl 3-((2,3-difluorophenyl)(2-ethoxy-2-oxoethoxy)methyl)piperidine-1-carboxylate | 9.5 g, 79% | FC1=C(C=CC=C1F)C([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCC(=O)OCC | C21H29F2NO5
